US06683211B1
A 80% solution of propargyl bromide in toluene (10.5 g, 71 mmol) is added slowly at room temperature to a mixture of 2-(4-bromo-phenyl)-2-hydroxy-N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-acetamide (11 g, 29 mmol), 30% sodium hydroxide solution (14 ml, 0.14 mol) and catalytic amounts of tetrabutylammonium bromide in 40 ml of dichloromethane. The reaction mixture is stirred for 16 hours at +40° C. Subsequently the mixture is evaporated and the residue is diluted with water and dichloromethane. The organic phase is separated and the aqueous layer is extracted three times with dichloromethane. The combined organic phases are washed with brine, dried over sodium sulfate and evaporated. The remaining oil is purified by chromatography on silica gel (ethyl acetate/hexane 1:1) to yield 2-(4-bromo-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-2-prop-2-ynyloxy-acetamide. 1H-NMR (300 MHz, CDCl3): 2.51 (t, 1H, C≡CH), 2.54 (t, 1H, C≡CH), 2.81 (t, 2H, CH2CH2), 3.54 (t, 2H, CH2CH2), 3.86 (s, 3H, OCH3), 3.97 (dd, 1H, OCH2), 4.20 (dd, 1H, OCH2), 4.78 (d, 2H, OCH2), 4.96 (s, 1H, CHOH), 6.70-7.52 (m, 8H, CH arom., NH).

reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | toluene | 71 mmol, 10.5 g | C1(=CC=CC=C1)C | C7H8
reactant | 2-(4-bromo-phenyl)-2-hydroxy-N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-acetamide | 29 mmol, 11 g | BrC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)O)OC)O | C17H18BrNO4
reactant | sodium hydroxide | 0.14 mol, 14 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(4-bromo-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-2-prop-2-ynyloxy-acetamide | BrC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)OCC#C | C23H22BrNO4
